US07709479B1
Sodium hydroxide (1.0 N, 200 ml) was added to a solution of 6-methoxy-7-benzyloxy-3,4-dihydroquinazolin-4-thione (30 g, 0.1 mol) in tetrahydrofuran (100 ml) and then methyl iodide (7.5 ml, 0.12 mol) was slowly added at ambient temperature over 30 minutes. The pH of the solution was then adjusted to 7 with hydrochloric acid (2.0 N), the reaction was diluted with water and the solid was recovered by suction filtration. Drying in vacuo yielded 4-(methylthio)-6-methoxy-7-benzyloxyquinazoline (29.5 g, 94% yield):

reactant | Sodium hydroxide | 1.0 N, 200 ml | [OH-].[Na+]
reactant | 6-methoxy-7-benzyloxy-3,4-dihydroquinazolin-4-thione | 0.1 mol, 30 g | COC=1C=C2C(NC=NC2=CC1OCC1=CC=CC=C1)=S | C16H14N2O2S
reactant | methyl iodide | 0.12 mol, 7.5 ml | CI | CH3I
reactant | hydrochloric acid | 2.0 N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(methylthio)-6-methoxy-7-benzyloxyquinazoline | 29.5 g, 94% yield | CSC1=NC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1 | C17H16N2O2S
